US06313122B1
Preparation of N1-(4-Methoxybenzoyl)-N2-(1-isobutylpiperidin-4-ylcarbonyl)-1,2-benzenediamine
Using the general procedure described in Example 3, N1-(4-methoxybenzoyl)-N2-(piperidin-4-ylcarbonyl)-1,2-benzenediamine (0.070 mmol) was reacted with isobutyraldehyde to provide 32 mg of the title product as the free base. Treatment with hydrochloric acid and concentration in vacuo yielded the salt of the title compound.

reactant | N1-(4-methoxybenzoyl)-N2-(piperidin-4-ylcarbonyl)-1,2-benzenediamine | 0.070 mmol | COC1=CC=C(C(=O)NC=2C(=CC=CC2)NC(=O)C2CCNCC2)C=C1 | C20H23N3O3
reactant | isobutyraldehyde | C(C(C)C)=O | C4H8O
product | N1-(4-Methoxybenzoyl)-N2-(1-isobutylpiperidin-4-ylcarbonyl)-1,2-benzenediamine | 32 mg | COC1=CC=C(C(=O)NC=2C(=CC=CC2)NC(=O)C2CCN(CC2)CC(C)C)C=C1 | C24H31N3O3
